US08017611B2
Tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]piperidine-1-carboxylate (222 mg) and 5-bromo-3-(6-fluorooxazolo[4,5-b]pyridin-2-yl)pyridin-2-amine (140 mg), bis(triphenylphosphine) palladium (II) chloride (15.9 mg) and caesium fluoride (172 mg) were weighed out in a microwave vial and sealed. Methanol (2 ml) was added and nitrogen was bubbled in the resulting suspension. The resulting mixture was heated in a 300 W microwave at 120° C. for 20 minutes. The crude product was purified by flash chromatography on silica gel (dried deposit with silica gel) eluting with 0 to 5% methanol in dichloromethane. The solvent was evaporated to dryness to afford tert-butyl 4-[4-[6-amino-5-(6-fluorooxazolo[4,5-b]pyridin-2-yl)-3-pyridyl]pyrazol-1-yl]piperidine-1-carboxylate (190 mg). NMR Spectrum: (CDCl3) 1.49 (s, 9H), 1.94-2.03 (m, 2H), 2.16-2.24 (m, 2H), 2.84-3.00 (m, 2H), 3.28 (bs, 2H), 3.29-3.37 (m, 1H), 6.94 (bs, 2H), 7.66 (dd, 1H), 7.68 (s, 1H), 7.79 (s, 1H), 8.35 (d, 1H), 8.45 (d, 1H), 8.48 (dd, 1H); Mass spectrum: M+H+ 480.

reactant | Tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]piperidine-1-carboxylate | 222 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | 5-bromo-3-(6-fluorooxazolo[4,5-b]pyridin-2-yl)pyridin-2-amine | 140 mg | BrC=1C=C(C(=NC1)N)C=1OC=2C(=NC=C(C2)F)N1 | C11H6BrFN4O
reactant | caesium fluoride | 172 mg | [F-].[Cs+]
catalyst | bis(triphenylphosphine) palladium (II) chloride | 15.9 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Methanol | 2 ml | CO | CH4O
product | tert-butyl 4-[4-[6-amino-5-(6-fluorooxazolo[4,5-b]pyridin-2-yl)-3-pyridyl]pyrazol-1-yl]piperidine-1-carboxylate | 190 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=1OC=2C(=NC=C(C2)F)N1 | C24H26FN7O3
